US05432182
Preparation of 3-butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline hydrochloride
3-Butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline (10 g) was suspended in methanol (100 ml) at room temperature, cone. hydrochloric acid added slowly to give a clear solution, then the solvent evaporated. The residue was twice taken up in 2-propanol and re-evaporated, and was then recrystallised from 2-propanol/ether to obtain the desired salt (9.7 g), m.p. 214°-215° C.

reactant | 3-Butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline | 10 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCO | C22H24N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 3-butyryl-4-(2-methylphenylamino)-8-(2-hydroxyethoxy)quinoline hydrochloride | 9.7 g | Cl.C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCO | InChI=1S/C22H24N2O3.ClH/c1-3-7-19(26)17-14-23-22-16(9-6-11-20(22)27-13-12-25)21(17)24-18-10-5-4-8-15(18)2;/h4-6,8-11,14,25H,3,7,12-13H2,1-2H3,(H,23,24);1H
